US07935674B2
4-Methyl-3-(5-phenylthiophen-2-yl-methyl)-1-(β-D-gluco-pyranosyl)indole
3-(5-Bromothiophen-2-yl-methyl)-4-methyl-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 45-(3) and benzeneboronic acid were treated in a manner similar to Example 45-(4) and 2-(7) to give the titled compound as a pale yellow powder. APCI-Mass m/Z 466 (M+H). 1H-NMR (DMSO-d6) δ 2.50 (s, 3H), 3.25 (m, 1H), 3.35-3.49 (m, 2H), 3.66-3.73 (m, 2H), 4.38 (s, 2H), 4.54 (t, J=5.5 Hz, 1H), 5.09 (d, J=5.3 Hz, 1H), 5.15 (d, J=5.0 Hz, 1H), 5.17 (d, J=5.9 Hz, 1H), 5.37 (d, J=9.2 Hz, 1H), 6.75 (d, J=7.1 Hz, 1H), 6.80 (d, J=3.5 Hz, 1H), 7.00 (t, J=7.6 Hz, 1H), 7.24 (t, J=7.3 Hz, 1H), 7.31-7.38 (m, 5H), 7.56 (d, J=7.4 Hz, 2H).

reactant | 3-(5-Bromothiophen-2-yl-methyl)-4-methyl-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | BrC1=CC=C(S1)CC1=CN(C2=CC=CC(=C12)C)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C28H30BrNO9S
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 4-Methyl-3-(5-phenylthiophen-2-yl-methyl)-1-(β-D-gluco-pyranosyl)indole | CC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC=1SC(=CC1)C1=CC=CC=C1 | C26H27NO5S
